US06426345B1
A mixture of 2-benzyl-4-(3-hydroxyphenyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (135 mg), acetic anhydride (84 mg), triethylamine (83 mg) and 4-dimethylaminopyridine (5 mg) in dichlormethane (2 ml) was stirred at room temperature for 1 hour. The mixture was poured into ethyl acetate and washed with water and brine, dried over magnesium sulfate and concentrated. The solids were collected and washed with isopropyl ether to give 4-(3-acetoxyphenyl)-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (90 mg)

reactant | 3-hydroxyphenyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 135 mg | OC=1C=C(C=CC1)C1=NC2=C(NC1=O)N=CC=C2 | C13H9N3O2
reactant | acetic anhydride | 84 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 83 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | dichlormethane | 2 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-(3-acetoxyphenyl)-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 90 mg | C(C)(=O)OC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC1=CC=CC=C1)C=CC=N2 | C22H17N3O3
